US09402833B2
n-BuLi (0.78 g, 12.25 mmol) was added drop-wise at −78° C. to a solution of Benzylcyclopropane sulfonate (2.0 g, 11.2 mmol) in THF (20 mL) and continued stirring at the same temperature for 10 min. CH3I (3.98 g, 28.0 mmol) was added at −78° C., allowed the reaction to warm to 0° C. with stirring for 30 min. The reaction mixture was quenched with ice cold water, diluted with ethylacetate (100 mL), organic layer collected was dried over anhydrous sodium sulphate and concentrated under reduced pressure to afford the crude. The crude was purified by column chromatography (using silica gel and 4% ethyl acetate in Hexane as eluent) to afford benzyl 1-methylcyclopropane-1-sulfonate (Int-25). 1H NMR (300 MHz, CD3OD) δ ppm 4.2-4.1 (2H, t), 1.7-1.6 (2H, m), 1.4 (3H, s), 1.5-1.3 (2H, m), 1.3-1.2 (2H, m), 1.0-0.9 (2H, m), 0.9 (3H, t).

reactant | n-BuLi | 12.25 mmol, 0.78 g | [Li]CCCC
reactant | Benzylcyclopropane sulfonate | 11.2 mmol, 2.0 g | C(C1=CC=CC=C1)OS(=O)(=O)C1CC1 | C10H12O3S
reactant | CH3I | 28.0 mmol, 3.98 g | CI | CH3I
solvent | THF | 20 mL | C1CCOC1 | C4H8O
product | benzyl 1-methylcyclopropane-1-sulfonate | CC1(CC1)S(=O)(=O)OCC1=CC=CC=C1 | C11H14O3S
